US06967208B2
To tert-butyl 5-(2-furyl)-1-(4-methoxyphenyl)-1H-pyrazole-3-carboxylate (1.0 g, 3.0 mmol) was added dichloromethane (7 mL) and trifluoroacetic acid (7 mL). The resulting black solution was maintained at rt under nitrogen for 2 h and was then concentrated to dryness. The resulting mixture was triturated with chloroform, and the remaining solid was washed with 50% hexanes in chloroform to afford 5-(2-furyl)-1-(4-methoxyphenyl)-1H-pyrazole-3-carboxylic acid (800 mg, 96%) as a light brown solid. 1H NMR (d6-DMSO) δ 7.75 (b m, 1H), 7.41 (d, 2H), 7.10 (d, 2H), 7.09 (s, 1H), 6.51 (br m, 1H), 6.09 (d, 1H), 3.84 (s, 3H).

reactant | tert-butyl 5-(2-furyl)-1-(4-methoxyphenyl)-1H-pyrazole-3-carboxylate | 3.0 mmol, 1.0 g | O1C(=CC=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)C(=O)OC(C)(C)C | C19H20N2O4
reactant | trifluoroacetic acid | 7 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
product | 5-(2-furyl)-1-(4-methoxyphenyl)-1H-pyrazole-3-carboxylic acid | 800 mg, 96% | O1C(=CC=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)C(=O)O | C15H12N2O4
